Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Tramadol / Darvon / Morphine / Codeine
 
Attending: ___.
 
Chief Complaint:
cecal polyp (villious)
 
Major Surgical or Invasive Procedure:
1. Laparotomy and lysis of adhesions.
2. Ileocecectomy with side-to-side, functional end-to-end
    ileocolostomy.
3. Takedown of colostomy with side-to-side colocolostomy.
4. Takedown of splenic flexure.

 
History of Present Illness:
The patient is an older man who had
a difficult lengthy hospitalization after ischemic colitis,
emergency surgery, and a ___ procedure.  The
patient had undergone screening colonoscopy and was found to
have a large sessile villous adenoma not amenable to
resection in the cecum.  Extensive preoperative discussion
included the risks of 2 anastomoses and the possibility of a
need for continued colostomy.  The patient strongly desired
to have his colostomy reversed if possible.

 
Past Medical History:
1.  Spontaneous DVT R calf, ___.  On Coumadin/Lovenox.
2.  Ischemic colitis one week post melanoma surgery ___
requiring emergency exploratory surgery.  He underwent a large
bowel resection and a left-sided colostomy was placed.  
 - post op course for colectomy complicated by: atrial
fibrillation and arm infection, pulmonary emboli, bleeding
through his ostomy and pneumonia.  Prolonged rehab course.
3.  H/o melanoma, s/p excision ___.  History of surgical
resection X 2 on his back.
4.  Aortic stenosis, s/p porcine valve replacement in ___ at
___.
5.  Prostate cancer s/p prostatectomy in ___, although
surveillance since then is not certain.
6.  Aortic aneurysm which was repaired in ___
  - Complications surrounding surgery included lung collapse and
hallucination/confusion related to pain medication
7.  Sciatica which has required occasional steroid injections
8.  Hypercholesterolemia
9.  Hypertension
10. Hypothyroidism 
11. History of a compression fracture.
12. Osteoporosis
13. History of delirium - reported as "confusion and
hallucination" felt to be related to several pain medications
that he has received over his recent surgical history.  Per ___
pre-op assessment in ___, his daughter recalls
specifically difficulty with tramadol, codeine,
Darvon and morphine.
  -As a followup to the acute confusion that he experienced 
after
surgery his daughter did seek two separate memory evaluations in
___ one at the ___ and one at ___.  The reported outcome of these visits was that 
his
memory was felt to be fairly good and that the confusion and
disorientation were related to an acute issue surrounding his
surgeries and pain medication.
14.  Memory impairment/executive dysfunction - At a previous
memory assessment, he was recommended to start on Aricept 5 mg
daily.  He has been on this for "preventative reasons" for the
past several years.  Daughter reports increased short term 
memory
difficulties. He is requiring more help managing finances and
medications.  Preop assessment in ___ suggested possible
executive dysfunction with an abnormal clock draw and a MMSE of
___.
.
PAST SURGICAL HISTORY:
1.  Removal of melanoma on the back ___ and ___.
2.  Porcine valve replacement ___.
3.  Prostatectomy ___.
4.  Aortic aneurysm repair ___.
5.  Colectomy with colostomy ___.
6.  Remote history of hernia repairs 1970s and ___.

 
Social History:
Living Situation:  Mr. ___ lives in a raised ranch on a
single floor in ___, ___.  The living spaces are
arranged on one level and he has six stairs to climb to get in
and out of the house.  He is married to his second wife who 
lives
part-time with him and also spends some large amount of her time
with her other children.  Today, ___ confirms that his wife is
infrequently at home and pt essentially lives alone.  His
daughter ___ lives about a half hour away and is very helpful
to him.  He took a trip to ___ in ___ with his 
brothers.

He has a ___ in ___.  He
is a retired ___.

Habits:  He rarely drinks alcohol and reports about a half cup 
of
wine once a month or less.  He has never smoked.

 
Family History:
He reports no history of colon cancer. 
Remainder of details are not available.

 
Physical Exam:
At Discharge:
Vitals: 97.5, 69, 128/68, 18, 95% on RA
GEN: NAD, A/ox2-3, easy to re-orient
CV: RRR, No m/r/g
RESP: CTAB. no w/r/r
ABD: soft, appropriately TTP, +BS,+flatus,+BM 
Incision: Midline abdominal OTA with staples
LLQ colostomy closure site packed loosely with moistened gauze & 
DSD, CDI
Extrem: no c/c/e
 
Pertinent Results:
___ 11:28AM BLOOD Hct-36.8*
___ 07:20AM BLOOD WBC-12.8*# RBC-3.57* Hgb-11.9* Hct-36.2* 
MCV-102* MCH-33.5* MCHC-33.0 RDW-13.4 Plt ___
___ 07:20AM BLOOD WBC-6.1# RBC-2.81* Hgb-9.2* Hct-28.9* 
MCV-103* MCH-32.7* MCHC-31.8 RDW-13.6 Plt ___
___ 07:20AM BLOOD WBC-9.0 RBC-2.97* Hgb-9.4* Hct-29.9* 
MCV-101* MCH-31.8 MCHC-31.5 RDW-14.2 Plt ___
___ 06:15AM BLOOD WBC-8.0 RBC-3.19* Hgb-10.5* Hct-32.3* 
MCV-101* MCH-32.9* MCHC-32.4 RDW-14.2 Plt ___
___ 07:20AM BLOOD ___
___ 07:20AM BLOOD ___
___ 08:30AM BLOOD ___
___ 07:20AM BLOOD ___ PTT-37.8* ___
___ 06:15AM BLOOD ___
___ 07:20AM BLOOD Glucose-141* UreaN-20 Creat-1.3* Na-141 
K-4.9 Cl-106 HCO3-31 AnGap-9
___ 07:20AM BLOOD Glucose-104 UreaN-20 Creat-1.1 Na-146* 
K-4.5 Cl-112* HCO3-33* AnGap-6*
___ 08:30AM BLOOD Glucose-102 UreaN-14 Creat-0.9 Na-142 
K-3.9 Cl-106 HCO3-29 AnGap-11
___ 06:15AM BLOOD Glucose-101 UreaN-12 Creat-1.0 Na-140 
K-4.3 Cl-106 HCO3-31 AnGap-7*
___ 07:20AM BLOOD Albumin-2.8* Calcium-7.4* Phos-2.5* 
Mg-2.4
___ 07:20AM BLOOD Calcium-7.9* Phos-1.6* Mg-2.4
___ 08:30AM BLOOD Calcium-8.2* Phos-3.3 Mg-2.1
___ 07:20AM BLOOD Calcium-7.6* Phos-3.4 Mg-2.3
___ 06:15AM BLOOD Calcium-7.8* Phos-2.3* Mg-2.2
___ 03:30PM BLOOD TSH-4.1
___ 03:30PM BLOOD Free T4-1.6
.
___: Left decubitus view of the abdomen shows 
moderate 
pneumoperitoneum. No appreciable gaseous distention or gut or 
air-fluid 
levels to suggest obstruction. 

___ 12:29PM BLOOD ___
 
Brief Hospital Course:
Mr. ___ operative course was uncomplicated. He was 
routinely observed in the PACU, and transferred to ___ for 
post-op care.
.
POD1-maintained NPO/IVF/PCA for pain/Foley to monitor urine 
output. Mental status decreased due to anesthesia & narcotic PCA 
pain control. Geriatrics consulted. Physical Therpay consulted. 
Safety/Fall Precautions initiated. Assisted OOB to chair per 
nursing staff.
.
Delirium: Confusion & agitation continuted during post-op 
recovery. Removed foley catheter. Mitt restraints applied. 
Geriatric recommendations initiated. Started on IM Haldol PRN 
with effects. Mental status improved with presence of family in 
room. Mitt restraints not required. Aricept held. Pain control 
started with PO Tylenol, standing doses. Low doses of narcotics 
given for breakthrough pain, eventually did not require any 
further narcotics. Mental status improved POD 5 and on without 
waxing & waning. No haldol required for at least past 24 hours. 
Continues to respond to re-orientation & routine. 
.
Post-op Atrial fibrillation: Remained on telemetry post-op. Few 
episodes of Atrial fibrillation & climbing SBP's during few days 
post-op. Managed with IV Lopressor. Remained in normal sinus 
with occasional PVC's since POD3-4. Geriatrics recommended 
increasing PO Lopressor dose once tolerating regular diet. Dose 
currently at 37.5 twice a day with adequate rate control and 
blood pressure control. Cardiac status stable.  In addition, 
patient bridged from Lovenox to Coumadin post-op (had been on 
Coumadin for management of DVT in past). Started on 5 mg while 
on clear liquids. INR increased to 4.6. Dose titrated more 
gradually. INR increased more gradually once patient started 
tolerating a regular diet. Continue to dose daily based on INR. 
Goal INR ___. Usual Coumadin dosing:  7.5 2 days of the week and 
5 mg 5 days. Most recent INR on ___ - 1.5.
.
Post-op ileus: On POD ___, diet had been advanced to clear 
liquids. Patient became distended with N/V. NGT inserted with 
over 1 liter of bilious output. ABD xray revealed dilated loops 
of bowel indicating ileus. NGT remained in place for a few days 
for decompression. Abdominal exam improved & NGT decreased. NGT 
removed. Re-trialed on clears. Tolerated well. Patient had bowel 
movement on ___. Advanced to regular diet. Tolerated well. 
Has had a few episodes of nausea & emesis after eating large 
meal too quickly. PO intake continued to be monitored per 
nursing staff. Advised patient & daughter to go slow, and eat 
small frequent meals to avoid nausea & vomiting until bowels 
completely heal.
.
Patient will continue post-surgical recovery in REHAB with 
Physical Therapy. Incisional staples will be removed on ___ 
with Dr. ___ at follow-up appointment.

 
Medications on Admission:
1.  Alendronate 70mg weekly
2.  Aricept 5mg daily
3.  Lovenox 80mg daily
4.  Folic acid 1mg daily
5.  Levothyroxine 75mcg daily
6.  Metoprolol 25mg daily
7.  Zocor 80mg daily
8.  Wafarin 7.5mg 2 days of the week and 5 mg 5 days
9.  ASA 81mg daily
10. Tums 500 BID
11.  Vitamin B12 1000mcg daily
12.  Colace
13.  Senna
14.  MTV 

 
Discharge Medications:
1. Levothyroxine 75 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
2. Docusate Sodium 50 mg/5 mL Liquid Sig: Two (2)  PO BID (2 
times a day) as needed for constipation: Hold for loose stools. 
.  
3. Senna 8.6 mg Tablet Sig: One (1) Tablet PO DAILY (Daily) as 
needed for constipation: Hold for loose stools. .  
4. Simvastatin 40 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
5. Calcium Carbonate 500 mg Tablet, Chewable Sig: One (1) 
Tablet, Chewable PO BID (2 times a day).  
6. Multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
7. Folic Acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

8. Acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q6H (every 
6 hours) as needed for fever or pain for 1 weeks: Do not exceed 
4000mg in 24hrs.  
9. Metoprolol Tartrate 25 mg Tablet Sig: 1.5 Tablets PO Q 12H 
(Every 12 Hours): hold for sbp<100, hr<60.  
10. Warfarin 1 mg Tablet Sig: Titrate according to daily INR 
value. Tablet PO ONCE (Once): GOAL INR: ___.  
11. Alendronate 70 mg Tablet Sig: One (1) Tablet PO once a week. 
 
12. Tamsulosin 0.4 mg Capsule, Sust. Release 24 hr Sig: One (1) 
Capsule, Sust. Release 24 hr PO at bedtime.  
13. Potassium & Sodium Phosphates ___ mg Powder in 
Packet Sig: One (1) Powder in Packet PO DAILY (Daily).  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary:
Sessile villous adenoma of the cecum
post-op delirium
post-op Atrial fibrillation
post-op ileus
.
Secondary:
Porcine aortic valve replacement ___, Aortic aneurysm repair 
___, Prostatectomy ___, colostomy secondary to ischemic colon 
in ___ c/b PE/Afib/PNA, Remote history of hernia repairs 
___ and ___, Removal of melanoma on the back ___ and ___ 

 
Discharge Condition:
Stable 
Tolerating a regular diet
Pain well controlled with Tylenol
 
Discharge Instructions:
REHAB Instruction:
Please call your doctor or return to the ER for any of the 
following:
* You experience new chest pain, pressure, squeezing or 
tightness.
* New or worsening cough or wheezing.
* If you are vomiting and cannot keep in fluids or your 
medications.
* You are getting dehydrated due to continued vomiting, 
diarrhea or other reasons. Signs of dehydration include dry 
mouth, rapid heartbeat or feeling dizzy or faint when standing.
* You see blood or dark/black material when you vomit or have a 
bowel movement.
* Your pain is not improving within ___ hours or not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or is changing location or moving to your chest or 

back.
*Avoid lifting objects > 5lbs until your follow-up appointment 
with the surgeon.
*Avoid driving or operating heavy machinery while taking pain 
medications.
* You have shaking chills, or a fever greater than 101.5 (F) 
degrees or 38(C) degrees.
* Any serious change in your symptoms, or any new symptoms that 
concern you.  
* Continue to ambulate several times per day.
.
Incision Care:
-Your staples will be removed at ___ at your follow-up 
appointment with Dr. ___.
-Your steri-strips will fall off on their own. Please remove any 
remaining strips ___ days after surgery.
-You may shower, and wash surgical incisions.
-Avoid swimming and baths until your follow-up appointment.
-Please call the doctor if you have increased pain, swelling, 
redness, or drainage from the incision sites.
.
Colostomy closure site:
-Continue to pack this site with moistened gauze in normal 
saline twice a day. 
-Monitor closely for symptoms of infection. Contact Dr. ___ 
with any questions/concerns.
.
Medications:
1. Lopressor-Dose increased from 25mg to 37.5mg BID due to 
elevated blood pressures post-op. Titrate dose as indicated.
2. Aricept-Dose held post-op due to post-op delirium. Consult 
PCP as to resuming this medication.
3. Coumadin-bridged from lovenox to coumadin during this 
admission. Resumed home dose of 5mg while NPO, INR bumped to 
4.6. Held for a few days. Resumed at 1 mg PO with close INR 
monitoring, daily dosing titrated based on INR. Now on regular 
diet. Home dose regimen: Wafarin 7.5 2 days of the week and 5 mg 
5 days.
4. Flomax-0.4mg started in-patient prior to foley removal. 
Continued due to intermittent low urine output post-op. Continue 
medication as indicated. Consider discontinuation if patient 
urinating adequate amounts, and hydrating self adequately.
5. Neutra-phos 1 packet given daily for low serum phosphate 
levels. Check serum Phosphate. Continue as needed.

 
Followup Instructions:
___